US08981111B2
A solution of 2-[({[(1-methyl-1H-imidazol-2-yl)(phenyl)methylene]amino}oxy)methyl]pyrimidin-4-amine (200 mg, 0.64 mmol), triethylamine (0.18 mL, 1.29 mmol), chloroformic acid n-amyl ester (0.19 mL, 1.29 mmol) in dichloromethane (10 mL) was stirred 4 h20 at room temperature. After dilution with water (50 mL), the layers were separated and the aqueous layer further extracted with dichloromethane (30 mL). The combined organic layers were dried over MgSO4 and the solvents removed in vacuo. Purification on silica gel afforded pentyl {2-[({[(1-methyl-1H-imidazol-2-yl)(phenyl)methylene]amino}oxy)methyl]pyrimidin-4-yl}carbamate as an oil [34 mg, yield 12%; HPLC/MS: m/z=423 (M+H); log P(HCOOH)=2.28].

reactant | 2-[({[(1-methyl-1H-imidazol-2-yl)(phenyl)methylene]amino}oxy)methyl]pyrimidin-4-amine | 0.64 mmol, 200 mg | CN1C(=NC=C1)C(C1=CC=CC=C1)=NOCC1=NC=CC(=N1)N | C16H16N6O
reactant | triethylamine | 1.29 mmol, 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | chloroformic acid n-amyl ester | 1.29 mmol, 0.19 mL | CCCCCOC(=O)Cl | C6H11ClO2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | pentyl {2-[({[(1-methyl-1H-imidazol-2-yl)(phenyl)methylene]amino}oxy)methyl]pyrimidin-4-yl}carbamate | yield 12% | CN1C(=NC=C1)C(C1=CC=CC=C1)=NOCC1=NC=CC(=N1)NC(OCCCCC)=O | C22H26N6O3
